US04565568
PREPARATION OF 4-((3-FLUORO-5-(TRIFLUOROMETHYL)-2-PYRIDINYL)OXY)PHENOL
Hydroquinone (4.4 g, 0.04 mole) was dissolved in 65 ml of dimethylsulfoxide and powdered sodium hydroxide (1.4 g, 0.035 mole) was added in one portion and the mixture stirred under nitrogen atmosphere for 10 minutes to convert to the sodium salt. 2,3-Difluoro-5-(trifluoromethyl)pyridine (6.0 g, 0.033 mole) was then added and the mixture stirred at 50° C. for 1.5 hours then warmed to 60° C. for a moment, let cool for 15 minutes and then poured into 500 ml of cold water. Additional sodium hydroxide (~3 g in water) was added to convert the desired product to its sodium salt. The insoluble bis-derivative was then removed by extraction with hexane. The clear aqueous phase was separated, cooled and acidified with concentrated hydrochloric acid. The solid which separated was collected on a filter, washed, dried on a vacuum funnel and taken up in hot hexane. After treating with decolorizing carbon, filtering, concentrating and cooling the white crystalline product separated. Yield: 2.6 g. M.P. 97.5-98.5.

reactant | Hydroquinone | 0.04 mole, 4.4 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium hydroxide | 0.035 mole, 1.4 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2,3-Difluoro-5-(trifluoromethyl)pyridine | 0.033 mole, 6.0 g | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
reactant | sodium hydroxide | ~3 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 4-((3-FLUORO-5-(TRIFLUOROMETHYL)-2-PYRIDINYL)OXY)PHENOL | FC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)O | C12H7F4NO2
